US05424005
After 4'-n-octylbiphenyl-4-carboxylic acid (3.2 g) and an excessive amount of thionyl chloride were heated under refluxing for 6 hours, unaltered thionyl chloride was distilled off to obtain 4'-n-octylbiphenyl-4-carboxylic acid chloride.

reactant | 4'-n-octylbiphenyl-4-carboxylic acid | 3.2 g | C(CCCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C21H26O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4'-n-octylbiphenyl-4-carboxylic acid chloride | C(CCCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C21H25ClO
